US05348964
9-(1-Piperidyl)nonanyl isopropyl ether
Mix 9-bromononanyl isopropyl ether (730 mg, 2.75 mmol) and piperidine (1 mL, 10 mmol) and stir at room temperature overnight. Add additional piperidine (5 mL) and heat at 100° C. for 4 hours. Partition between ethyl ether and 5N sodium hydroxide. Separate the organic phase and extract the aqueous phase with ethyl ether (2×30 mL). Combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to yield 510 mg yellow oil. Purify by silica gel chromatography (ethyl acetate followed by 10% MeOH/ethyl acetate) to yield 380 mg (51%) of the title compound as a pale yellow oil.

reactant | 9-bromononanyl isopropyl ether | 2.75 mmol, 730 mg | C(C)(C)OCCCCCCCCCBr | C12H25BrO
reactant | piperidine | 10 mmol, 1 mL | N1CCCCC1 | C5H11N
reactant | piperidine | 5 mL | N1CCCCC1 | C5H11N
product | 9-(1-Piperidyl)nonanyl isopropyl ether | 510 mg | C(C)(C)OCCCCCCCCCN1CCCCC1 | C17H35NO
